US07342118B2
4-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoylamino]-imidazol-1-yl}-benzoic acid methyl ester
4-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-benzoic acid methyl ester was reacted with 6,8-Difluoro-3,4-dihydro-1H-naphthalen-2-one to provide the title compound: MS m/z 483.2 (M+1).

reactant | 4-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1C=NC(=C1)NC(C(CCC)N)=O)=O | C16H20N4O3
reactant | 6,8-Difluoro-3,4-dihydro-1H-naphthalen-2-one | FC=1C=C2CCC(CC2=C(C1)F)=O | C10H8F2O
product | 4-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoylamino]-imidazol-1-yl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O)=O | C26H28F2N4O3
